.subckt NOR2 A B OUT VDD VSS
* Pull-down network (Parallel)
M1 OUT A VSS VSS NMOS_SME L=0.35u W=0.4u
M2 OUT B VSS VSS NMOS_SME L=0.35u W=0.4u
* Pull-up network (Series)
M3 MID A VDD VDD PMOS_SME L=0.35u W=2.0u
M4 OUT B MID VDD PMOS_SME L=0.35u W=2.0u
.ends NOR2