.subckt PWM_CORE TRIG VCAP IREF VDD VSS
* Diode-connected PMOS for reference current
M1 IREF IREF VDD VDD PMOS_SME L=0.35u W=2.0u
* Mirror PMOS acting as the current source charging the capacitor
M2 VCAP IREF VDD VDD PMOS_SME L=0.35u W=2.0u
* NMOS switch to instantly discharge the capacitor on trigger
M3 VCAP TRIG VSS VSS NMOS_SME L=0.35u W=0.4u
* Timing Capacitor (calculated for ~2.7pF based on 1.65V threshold)
C1 VCAP VSS 2.7p
.ends PWM_CORE