.subckt EDGE_DET CLK_IN PULSE_OUT VDD VSS
* Delay line
X1 CLK_IN D1 VDD VSS INV
X2 D1 D2 VDD VSS INV
X3 D2 D3 VDD VSS INV
X4 D3 CLK_DEL VDD VSS INV

* 12-T Static CMOS XOR Gate
* Internal Inverters for inverted inputs
X5 CLK_IN CLK_IN_B VDD VSS INV
X6 CLK_DEL CLK_DEL_B VDD VSS INV

* XOR Pull-down network
M1 N1 CLK_IN VSS VSS NMOS_SME L=0.35u W=0.4u
M2 PULSE_OUT CLK_DEL_B N1 VSS NMOS_SME L=0.35u W=0.4u
M3 N2 CLK_IN_B VSS VSS NMOS_SME L=0.35u W=0.4u
M4 PULSE_OUT CLK_DEL N2 VSS NMOS_SME L=0.35u W=0.4u

* XOR Pull-up network
M5 P1 CLK_IN VDD VDD PMOS_SME L=0.35u W=1.0u
M6 P1 CLK_DEL VDD VDD PMOS_SME L=0.35u W=1.0u
M7 PULSE_OUT CLK_IN_B P1 VDD PMOS_SME L=0.35u W=1.0u
M8 PULSE_OUT CLK_DEL_B P1 VDD PMOS_SME L=0.35u W=1.0u
.ends EDGE_DET