.subckt OUTPUT_BUFFER IN OUT VDD VSS
* Stage 1: Minimum size
M1 N1 IN VSS VSS NMOS_SME L=0.35u W=0.4u
M2 N1 IN VDD VDD PMOS_SME L=0.35u W=1.0u
* Stage 2: Scaled ~2.7x
M3 N2 N1 VSS VSS NMOS_SME L=0.35u W=1.1u
M4 N2 N1 VDD VDD PMOS_SME L=0.35u W=2.7u
* Stage 3: Scaled ~7.3x (from base)
M5 OUT N2 VSS VSS NMOS_SME L=0.35u W=3.0u
M6 OUT N2 VDD VDD PMOS_SME L=0.35u W=7.3u
.ends OUTPUT_BUFFER