.subckt INV IN OUT VDD VSS
M1 OUT IN VSS VSS NMOS_SME L=0.35u W=0.4u
M2 OUT IN VDD VDD PMOS_SME L=0.35u W=1.0u
.ends INV

.subckt NOR2 A B OUT VDD VSS
* Pull-down network (Parallel)
M1 OUT A VSS VSS NMOS_SME L=0.35u W=0.4u
M2 OUT B VSS VSS NMOS_SME L=0.35u W=0.4u
* Pull-up network (Series)
M3 MID A VDD VDD PMOS_SME L=0.35u W=2.0u
M4 OUT B MID VDD PMOS_SME L=0.35u W=2.0u
.ends NOR2

.subckt SR_LATCH S R Q QN VDD VSS
X1 R QN Q VDD VSS NOR2
X2 S Q QN VDD VSS NOR2
.ends SR_LATCH

.subckt EDGE_DET CLK_IN PULSE_OUT VDD VSS
* Delay line
X1 CLK_IN D1 VDD VSS INV
X2 D1 D2 VDD VSS INV
X3 D2 D3 VDD VSS INV
X4 D3 CLK_DEL VDD VSS INV

* 12-T Static CMOS XOR Gate
* Internal Inverters for inverted inputs
X5 CLK_IN CLK_IN_B VDD VSS INV
X6 CLK_DEL CLK_DEL_B VDD VSS INV

* XOR Pull-down network
M1 N1 CLK_IN VSS VSS NMOS_SME L=0.35u W=0.4u
M2 PULSE_OUT CLK_DEL_B N1 VSS NMOS_SME L=0.35u W=0.4u
M3 N2 CLK_IN_B VSS VSS NMOS_SME L=0.35u W=0.4u
M4 PULSE_OUT CLK_DEL N2 VSS NMOS_SME L=0.35u W=0.4u

* XOR Pull-up network
M5 P1 CLK_IN VDD VDD PMOS_SME L=0.35u W=1.0u
M6 P1 CLK_DEL VDD VDD PMOS_SME L=0.35u W=1.0u
M7 PULSE_OUT CLK_IN_B P1 VDD PMOS_SME L=0.35u W=1.0u
M8 PULSE_OUT CLK_DEL_B P1 VDD PMOS_SME L=0.35u W=1.0u
.ends EDGE_DET

.subckt PWM_CORE TRIG VCAP IREF VDD VSS
* Diode-connected PMOS for reference current
M1 IREF IREF VDD VDD PMOS_SME L=0.35u W=2.0u
* Mirror PMOS acting as the current source charging the capacitor
M2 VCAP IREF VDD VDD PMOS_SME L=0.35u W=2.0u
* NMOS switch to instantly discharge the capacitor on trigger
M3 VCAP TRIG VSS VSS NMOS_SME L=0.35u W=0.4u
* Timing Capacitor (calculated for ~2.7pF based on 1.65V threshold)
C1 VCAP VSS 2.7p
.ends PWM_CORE

.subckt COMP VCAP RESET_OUT VDD VSS
* Skewed inverter. W_p is adjusted to shift V_sp to the exact required threshold.
M1 V_INV VCAP VSS VSS NMOS_SME L=0.35u W=0.4u
M2 V_INV VCAP VDD VDD PMOS_SME L=0.35u W=1.5u 
* Squaring inverter to ensure clean logic levels for the latch
X1 V_INV RESET_OUT VDD VSS INV
.ends COMP

.subckt OUTPUT_BUFFER IN OUT VDD VSS
* Stage 1: Minimum size
M1 N1 IN VSS VSS NMOS_SME L=0.35u W=0.4u
M2 N1 IN VDD VDD PMOS_SME L=0.35u W=1.0u
* Stage 2: Scaled ~2.7x
M3 N2 N1 VSS VSS NMOS_SME L=0.35u W=1.1u
M4 N2 N1 VDD VDD PMOS_SME L=0.35u W=2.7u
* Stage 3: Scaled ~7.3x (from base)
M5 OUT N2 VSS VSS NMOS_SME L=0.35u W=3.0u
M6 OUT N2 VDD VDD PMOS_SME L=0.35u W=7.3u
.ends OUTPUT_BUFFER

