* CMOS Mini-Project Top-Level: Edge-Triggered PWM Generator

* --- 1. Power Supply ---
* Single 3.3V power supply
VDD VDD 0 3.3
VSS VSS 0 0

* --- 2. Input Sources ---
* 100 kHz Input Clock: 5ns rise/fall, 10k output resistance
VCLK_SRC CLK_INTERNAL 0 PULSE(0 3.3 0 5n 5n 4.995u 10u)
R_CLK CLK_INTERNAL CLK_IN 10k

* Reference Current: Swept parameter, 10 G-Ohm parallel output resistance
I_REF IREF_NODE 0 {I_VAR}
R_IREF IREF_NODE 0 10G

* --- 3. Circuit Instantiations ---
* Edge Detector: Generates a short pulse on every clock transition
X_EDGE CLK_IN TRIG_PULSE VDD VSS EDGE_DET

* PWM Core: PMOS current mirror and timing capacitor discharge
X_PWM TRIG_PULSE VCAP IREF_NODE VDD VSS PWM_CORE

* Threshold Detector (Pseudo-Comparator): Triggers when VCAP > V_sp
X_COMP VCAP RESET_SIG VDD VSS COMP

* SR Latch: Sets on clock edge, Resets when VCAP reaches threshold
X_LATCH TRIG_PULSE RESET_SIG PWM_OUT PWM_OUT_B VDD VSS SR_LATCH

* Output Buffer: Drives the 2pF load with <10ns rise/fall
X_BUFF PWM_OUT PWM_FINAL VDD VSS OUTPUT_BUFFER

* --- 4. Load ---
* 2 pF purely capacitive load
CLOAD PWM_FINAL 0 2p

* --- 5. Simulation Directives ---
* Parameter sweep to verify linear relationship
.step param I_VAR list 1u 3u 5u 7u 9u

* Transient analysis covering multiple clock periods
.tran 0 25u 0 10n

* Include AMS 350nm model library
.include library.mod

* Include the subcircuits file generated previously
.include subcircuits.net
