* C:\Users\lucasp\Projects\CMOS-project\test_vcdl.asc
* Generated by LTspice 26.0.1 for Windows.
X§X1 clk N004 N002 N003 N001 out_clk vdd 0 my_vcdl
V1 clk 0 PULSE(0 3.3 1u 1n 1n 5u 10u) Rser=0
V2 vdd 0 3.3 Rser=0
V3 N004 0 3.3

* block symbol definitions
.subckt my_vcdl REF_CLK V_CTRL 180_CLK 270_CLK 90_CLK OUT_CLK VDD VSS
M9 VDD vctrl_pmos vctrl_pmos VDD PMOS_SME l=5u w=0.4u
M10 vctrl_pmos V_CTRL VSS VSS NMOS_SME l=5u w=0.4u
X§X1 REF_CLK N001 VDD VSS vctrl_pmos V_CTRL my_current_starved_inverter
X§X2 90_CLK N002 VDD VSS vctrl_pmos V_CTRL my_current_starved_inverter
X§X3 180_CLK N003 VDD VSS vctrl_pmos V_CTRL my_current_starved_inverter
X§X4 270_CLK N004 VDD VSS vctrl_pmos V_CTRL my_current_starved_inverter
X§X5 N001 90_CLK VDD VSS vctrl_pmos V_CTRL my_current_starved_inverter
X§X6 N002 180_CLK VDD VSS vctrl_pmos V_CTRL my_current_starved_inverter
X§X7 N003 270_CLK VDD VSS vctrl_pmos V_CTRL my_current_starved_inverter
X§X8 N004 OUT_CLK VDD VSS vctrl_pmos V_CTRL my_current_starved_inverter
.inc library.mod
.ends my_vcdl

.subckt my_current_starved_inverter IN OUT VDD VSS VBP VBN
M3 N002 IN OUT VDD PMOS_SME l=0.35u w=0.4u
M4 OUT IN N003 VSS NMOS_SME l=0.35u w=0.4u
M1 N001 VDD N002 VDD PMOS_SME l=2u w=2u
M2 N003 VDD N004 VSS NMOS_SME l=2u w=0.4u
M5 N004 VBN VSS VSS NMOS_SME l=2u w=0.4u
M6 VDD VBP N001 VDD PMOS_SME l=2u w=2u
.inc library.mod
.ends my_current_starved_inverter

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lucasp\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 5m 0 20n
.backanno
.end
